US09023844B2
To a mixture of 4-(2-phenylpyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-amine (60 mg, 0.2 mmol, 1 eq) in 3 mL of ethanol is added sodium borohydride (17 mg, 0.45 mmol, 2.2 eq). The mixture is stirred at room temperature for 2 h. The mixture is then poured into water, extracted with dichloromethane (3×50 mL), dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure. 29 mg (47%) of 4-(2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-amine are obtained as a white solid which is used in the next step without further purification.

reactant | 4-(2-phenylpyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-amine | 0.2 mmol, 60 mg, 1 eq | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1C1=CC(=NC=C1)N | C17H13N5
reactant | sodium borohydride | 0.45 mmol, 17 mg, 2.2 eq | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-amine | 29 mg, 47% | C1(=CC=CC=C1)C1=NN2C(NCCC2)=C1C1=CC(=NC=C1)N | C17H17N5
